US06967197B2
To a solution of N-(t-butoxycarbonylaminosulfonyloxy)-succinimide (272 mg), 2-methoxyethanol (84.4 mg) and triphenylphosphine (291 mg) in tetrahydrofuran (5 ml) was added diethyl azodicarboxylate (193 mg) under ice-water cooling and the mixture was stirred at 0° C. for 1 hour. After evaporation of solvent, the residue was purified by silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (2:1, 1:1) to give N-(N-t-butoxycarbonyl-N-(2-methoxyethyl)aminosulfonyloxy)succinimide as colorless oil (205 mg).

reactant | N-(t-butoxycarbonylaminosulfonyloxy)-succinimide | 272 mg | C(C)(C)(C)OC(=O)NS(=O)(=O)ON1C(CCC1=O)=O | C9H14N2O7S
reactant | 2-methoxyethanol | 84.4 mg | COCCO | C3H8O2
reactant | triphenylphosphine | 291 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 193 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(N-t-butoxycarbonyl-N-(2-methoxyethyl)aminosulfonyloxy)succinimide | 205 mg | C(C)(C)(C)OC(=O)N(CCOC)S(=O)(=O)ON1C(CCC1=O)=O | C12H20N2O8S
